US06498251B1
Synthesis Example 38d 4-(1-Hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl)-pyridine
Ether solution (50 ml) of 4-bromopyridine (3.2 g, 20 mmol) was cooled using a dry ice-acetone mixture. 1.6 M Butyl lithium hexane solution (16 ml, 26 mmol) was added dropwise to the solution in small portions, and stirred for 30 minutes after completion of the dropwise addition. The reaction solution was mixed with α-tetralone (3.3 g, 23 mmol), returned to room temperature spending 20 minutes and then stirred for 2 hours. Ethyl acetate (100 ml) and water (50 ml) were added to the reaction mixture, and the ethyl acetate layer was separated, washed with water and dried with anhydrous sodium sulfate. The ethyl acetate solution was concentrated under a reduced pressure, diisopropyl ether (30 ml) was added to the resulting residue and then the thus precipitated crystals were collected by filtration to obtain 1.7 g (7.3 mmol, 37% in yield) of the title compound.

reactant | 4-bromopyridine | 20 mmol, 3.2 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | Butyl lithium hexane | 26 mmol, 1.6 M, 16 ml | CCCCCC.C(CCC)[Li]
reactant | α-tetralone | 23 mmol, 3.3 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
solvent | water | 50 ml | O | H2O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Ether | 50 ml | CCOCC | C4H10O
product | 4-(1-Hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl)-pyridine | OC1(CCCC2=CC=CC=C12)C1=CC=NC=C1 | C15H15NO
